US08202858B2
4-Amino-2-chloro-benzoic Acid Methyl Ester
A solution of 4-Amino-2-chloro-benzoic acid (5.3 g, 31 mmol) in methanol (100 ml) was treated with acetyl chloride (5 ml) and then heated at reflux for 16 hours. The solvents were evaporated in vacuo. The residue was dissolved in EtOAc, washed with saturated sodium hydrogen carbonate, dried and concentrated in vacuo to yield the title compound as a purple solid, 5.45 g, 95%.

reactant | 4-Amino-2-chloro-benzoic acid | 31 mmol, 5.3 g | NC1=CC(=C(C(=O)O)C=C1)Cl | C7H6ClNO2
reactant | acetyl chloride | 5 ml | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 100 ml | CO | CH4O
product | 4-Amino-2-chloro-benzoic Acid Methyl Ester | COC(C1=C(C=C(C=C1)N)Cl)=O | C8H8ClNO2
